US04886814
N-[2-(4-Carbomethoxymethoxyphenyl)-1-methylethyl]-N-(2-hydroxyethyl)-2-hydroxy-2-(2-trifluoromethyl-thiazol-4-yl)ethanamine
Prepared analogously to Example 3 by reaction of 2-trifluoromethyl-4-bromoacetyl-thiazole and N-(2-hydroxyethyl)- 2-(4-carbomethoxymethoxyphenyl)-1-methylethylamine. Before the reduction with sodium borohydride, the mixture is heated to boiling for 3 hours to complete the reaction. The base is then purified on a silica gel column using ethyl acetate as mobile phase.

reactant | 2-trifluoromethyl-4-bromoacetyl-thiazole | FC(C=1SC=C(N1)C(CBr)=O)(F)F | C6H3BrF3NOS
reactant | N-(2-hydroxyethyl)- 2-(4-carbomethoxymethoxyphenyl)-1-methylethylamine | OCCNC(CC1=CC=C(C=C1)OCC(=O)OC)C | C14H21NO4
reactant | sodium borohydride | [BH4-].[Na+]
product | N-[2-(4-Carbomethoxymethoxyphenyl)-1-methylethyl]-N-(2-hydroxyethyl)-2-hydroxy-2-(2-trifluoromethyl-thiazol-4-yl)ethanamine | C(=O)(OC)COC1=CC=C(C=C1)CC(C)N(CC(C=1N=C(SC1)C(F)(F)F)O)CCO | C20H25F3N2O5S
